US06627651B1
To lithium aluminum hydride (6.87 g) suspended in diethyl ether (300 ml) was added dropwise at 0° C. a solution of ethyl 2-propoxycinnamate (21.2 g) in diethyl ether (100 ml) over a period of 40 minutes. After the dropwise addition, the resulting mixture was stirred at room temperature for one hour. Water (7 ml), a 15% aqueous solution of sodium hydroxide (7 ml) and water (21 ml) were added to the reaction mixture, and the resulting mixture was further stirred at room temperature for one hour. The reaction mixture was diluted with diethyl ether and was dried by addition of anhydrous magnesium sulfate. After the resulting mixture was filtered, the filtrate was concentrated under reduced pressure to obtain 3-(2-propoxyphenyl)-1-propanol (17.01 g) as a colorless oil.

reactant | lithium aluminum hydride | 6.87 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2-propoxycinnamate | 21.2 g | C(CC)OC1=C(C=CC(=O)OCC)C=CC=C1 | C14H18O3
reactant | Water | 7 ml | O | H2O
reactant | sodium hydroxide | 7 ml | [OH-].[Na+]
reactant | water | 21 ml | O | H2O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 3-(2-propoxyphenyl)-1-propanol | 17.01 g | C(CC)OC1=C(C=CC=C1)CCCO | C12H18O2
